US09337358B2
2,5-Bis(5-trimethylstannyl-4-chloro-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole
To a 100 mL Schlenk flask was added 250 mg (0.32 mmol) of 2,5-bis(4-chloro-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole. The flask was evacuated and refilled with argon three times. After 35 mL of dry THF was added to the flask, the flask was cooled to −78° C. n-Butyl lithium (0.96 mmol) was then added dropwise to the solution. After stirring at −78° C. for 1 hour, 1.1 mL of an 1.0 M solution of trimethyltin chloride was syringed into the reaction mixture. After the solution was allowed to warm up to room temperature, 100 mL of diethyl ether was added to the solution. The solution was washed three times with 100 mL of water and then the organic layer was dried MgSO4. The solvent was removed in vacuo and the desired compound, i.e., 2,5-bis(5-trimethylstannyl-4-chloro-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole, was isolated in quantitative yield. The NMR data were obtained and were consistent with those of the desired compound.

reactant | 2,5-bis(4-chloro-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole | 0.32 mmol, 250 mg | ClC=1C(=C(SC1)C=1SC=2N=C(SC2N1)C=1SC=C(C1CCCCCCCCCCCCCC)Cl)CCCCCCCCCCCCCC | C40H60Cl2N2S4
reactant | n-Butyl lithium | 0.96 mmol | C(CCC)[Li]
reactant | trimethyltin chloride | C[Sn](C)(C)Cl
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2,5-bis(5-trimethylstannyl-4-chloro-3-tetradecyl-2-thienyl)-thiazolo[5,4-d]thiazole | C[Sn](C1=C(C(=C(S1)C=1SC=2N=C(SC2N1)C=1SC(=C(C1CCCCCCCCCCCCCC)Cl)[Sn](C)(C)C)CCCCCCCCCCCCCC)Cl)(C)C | InChI=1S/C40H58Cl2N2S4.6CH3.2Sn/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-31-33(41)29-45-35(31)37-43-39-40(47-37)44-38(48-39)36-32(34(42)30-46-36)28-26-24-22-20-18-16-14-12-10-8-6-4-2;;;;;;;;/h3-28H2,1-2H3;6*1H3;;
